Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Pneumovax 23
 
Attending: ___.
 
Chief Complaint:
epigastric pain, asymptomatic bradycardia
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ with PMH of aortic stenosis s/p 
bioprosthetic AVR and single-vessel CABG (SVG-PDA) in ___, DM, 
HTN, diastolic HF who had sharp epigastric pain at home the 
night before admission.  The pain began in the evening on the 
day prior to admission when she tried to swallow her evening 
pills.  She felt nauseated, but did not throw up.  The pain was 
in her epigastrum, sharp, and radiated to her back.  She was 
unable to eat dinner and unable to sleep all night due to the 
pain. 
Her visiting nurse saw her on the morning of admission, and 
noticed she wasn't feeling well, so took her vitals, had a pulse 
in the ___. Per report, her blood pressure at this time was 
150s/50s.  EMS was called, and when they arrived, she was 
bradycardic in the ___ with a junctional escape rhythm. She was 
given 0.5mg atropine with reported improvement in her HR to the 
___.  Of note, the patient stated that she has been taking all 
of her medications as prescribed, and does not feel dehydrated 
and has not noticed any changes to her bowel or bladder habits.
In the ED, initial vitals were T97 HR47 BP131/59 RR21 O2sat 
95(RA).
She was comfortable and without complaints. She was put on 2L O2 
by NC and transferred to the floor.
ROS negative for chest pain or pressure, palpitations, SOB, 
lightheadedness, dizziness, loss of consciousness.  She denies 
orthopnea, dyspnea on exertion, lower extremity edema.  She has 
not noticed any recent changes in her stool (no melana) or bowel 
habits (no constipation or diarrhea).  Denies dysuria, 
frequency.  Does not feel dehydrated. 

 
Past Medical History:
1. CARDIAC RISK FACTORS: DM, hyperlipidemia, HTN
2. CARDIAC HISTORY:  
-Aortic stenosis s/p bioAVR ___
-Diastolic Heart Failure (EF >75%)
-CABG: CAD s/p single-vessel CABG ___ (SVG-PDA)
3. OTHER PAST MEDICAL HISTORY:  
___
GERD
Reducible umbilical hernia
 
Social History:
___
Family History:
Family hx of heart disease in many members, unable to specify 
what kind, otherwise non-contributory.
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
VS: T=98.7 BP=115/81 HR=50 RR=20 O2 sat=98 (3L)  
Orthostatics: lying - 128/51  51; sitting - 130/55  56; standing 
130/59  48
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Moist mucous 
membranes.
NECK: Supple with JVP of 8 cm.  
CARDIAC: bradycardic, regular, normal S1, S2. crescendo systolic 
murmur best heard at aortic region. No S3 or S4.  
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: +BS, soft, obese, tenderness to palpation in the 
epigastrum. 
EXTREMITIES: No edema, warm
SKIN: No stasis dermatitis, good tugor  

PHYSICAL EXAM ON DISCHARGE:
VS: T=98.0 BP=110-130s/80s HR=51-60 RR=20 O2 sat=97 (RA)
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Moist mucous 
membranes.
NECK: Supple with JVP of 8 cm.  
CARDIAC: bradycardic, regular, normal S1, S2. crescendo systolic 
murmur best heard at aortic region. No S3 or S4.  
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: +BS, soft, obese, tenderness to palpation in the 
epigastrum. 
EXTREMITIES: No edema, warm
SKIN: No stasis dermatitis, good tugor  
 
Pertinent Results:
CBC:
___ 12:05PM BLOOD WBC-10.2 RBC-3.19* Hgb-10.0* Hct-28.7* 
MCV-90 MCH-31.3 MCHC-34.8 RDW-13.5 Plt ___
___ 06:30AM BLOOD WBC-8.2 RBC-3.02* Hgb-9.6* Hct-27.2* 
MCV-90 MCH-31.9 MCHC-35.5* RDW-13.3 Plt ___
___ 06:38AM BLOOD WBC-5.9 RBC-2.79* Hgb-9.0* Hct-26.0* 
MCV-93 MCH-32.2* MCHC-34.6 RDW-13.5 Plt ___

Coagulation Panel:
___ 12:05PM BLOOD ___ PTT-25.0 ___

Chemistries:
___ 12:05PM BLOOD Glucose-134* UreaN-69* Creat-2.8*# 
Na-131* K-5.5* Cl-97 HCO3-20* AnGap-20
___ 09:30PM BLOOD Na-134 K-4.9 Cl-101
___ 06:30AM BLOOD Glucose-107* UreaN-60* Creat-2.0* Na-136 
K-5.1 Cl-104 HCO3-22 AnGap-15
___ 06:38AM BLOOD Glucose-120* UreaN-43* Creat-1.6* Na-137 
K-4.7 Cl-105 HCO3-22 AnGap-15

Cardiac Enzymes:
___ 09:30PM BLOOD CK(CPK)-240*
___ 06:30AM BLOOD CK(CPK)-237*
___ 12:05PM BLOOD cTropnT-0.01
___ 09:30PM BLOOD CK-MB-4 cTropnT-<0.01
___ 06:30AM BLOOD CK-MB-3 cTropnT-<0.01

LFTs:
___ 09:30PM BLOOD ALT-33 AST-25 LD(LDH)-205 AlkPhos-79 
Amylase-80 TotBili-0.3
___ 09:30PM BLOOD Lipase-67*

Misc.
___ 06:38AM BLOOD calTIBC-220* VitB12-420 Ferritn-157* 
TRF-169*
___ 06:38AM BLOOD TSH-1.3

CXR ___:
IMPRESSION: Exam limited by low lung volumes. No acute 
cardiopulmonary process. 

 
Brief Hospital Course:
Primary Reason for Hospitalization:  Ms. ___ is a ___ 
with PMH with Aortic Stenosis s/p bioprosthetic AVR and 
single-vessel CABG (SVG-PDA) in ___, DM, HTN, diastolic HF had 
sharp epigastric pain at home the night before admission, found 
on the morning of admission to be bradycardic to mid-30s.

Active Diagnoses:
# RHYTHM: Patient was in sinus bradycardic vs. junctional escape 
rhythm of unclear etiology, and remained asymptomatic through 
out admission with no lightheadedness, dizziness, syncope, chest 
pain or pressure.  Likely etiology of bradycardia is a vagal 
response to abdominal pain, but another possibility is verapamil 
accumulating in her system in the setting of renal failure 
(verapamil is hepatically metabolized, but the metabolite is 
still active and renally excreted).  Throughout hospitalization, 
her heart rate remained in the ___ with no intervention.  
Her verapamil held as an inpatient and restarted as an 
outpatient as it is beneficial for diastolic heart failure.  

# PUMP: Patient has a hx of diastolic dysfunction (EF>75%).  She 
takes furosemide 20mg po daily and did not seem volume 
overloaded today.  By CXR, did not appear volume overloaded 
either.  Furosemide was held while she was an inpatient in the 
setting of ARF but will be restarted as an outpatient at half 
the dose (now at furosemide 10mg po daily).
  
# CORONARIES: Patient has a history of CAD s/p single-vessel 
CABG ___.  Her current sharp epigastric pain does not sound 
anginal in nature.  She has nonspecific TWI on EKG and negative 
troponin x2.  She was continue simvastatin and ASA, but her 
enalapril was held in the setting of ARF.  She will restart 
enalapril as outpatient at her home dose.
  
# ARF: Patient's Cr of 2.8 is much higher than her baseline of 
1.2.  She did not appear dry on exam during admission (moist 
mucous membranes, is not orthostatic, skin turgor is good).  She 
was also hyponatremic and hyperkalemic, both of which can be 
explained by dehydration (hypovolemic hyponatremia and decreased 
K clearance with renal failure).  She received 1L NS overnight 
at 75cc/hr, which she tolerated well.  Her creatinine has 
improved to 1.6 from 2.8 on the day of discharge and her 
hyponatremia and hyperkalemia resolved.

#  Epigastric Pain: The patient endorsed sharp epigastric pain 
exacerbated by food, radiating toward back that began last night 
but improved today.  Differential included gastritis, 
pancreatitis, biliary disease.  Her LFTs were unimpressive and 
her pain had resolved by the time she was admitted.  She was 
monitored without further interventions, and continued on her 
home dose of Nexium 40mg daily.

#Anemia: Patient is anemic to 26, which is stable but down from 
her baseline of low ___.  Iron studies were ordered on the 
patient, as pt has hx of iron deficiency, and the patient was 
started on iron supplemenation as an outpatient.  Her labs 
returned after discharge showing an anemia of chronic disease 
type of picture.  This was communicated to her primary care 
physician who will make adjustments to her medications.

Chronic issues:
#  DM2.  Her oral hypoglycemics were held in the hospital and 
she was maintained on an insulin sliding scale.  Her blood 
sugars remained well-controlled.
  
# Dementia: She continued Donepezil 10mg daily per her home 
dose.
  
# Lower back pain: She was continued on Acetaminophen 500mg BID 
per her home dose.

Transitional Issues:  
CODE: Full code
EMERGENCY CONTACT:  ___ (granddaughter) ___
Discharge summary was faxed to patient's PCP, ___.
 
Medications on Admission:
ASA 81mg daily
Verapamil 120mg daily
Simvastatin 20mg daily
Enalapril 10mg daily
Furosemide 20mg daily
Glipizide 2.5mg daily
Metformin 500mg daily
Donepezil 10mg daily
Nexium 40mg daily
Acetaminophen 500mg BID
 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  
3. metformin 500 mg Tablet Sig: One (1) Tablet PO once a day.  
4. donepezil 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Nexium 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
6. acetaminophen 500 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
7. furosemide 20 mg Tablet Sig: 0.5 Tablet PO once a day: Please 
resume taking 10mg Lasix (half a pill) on ___.
Disp:*15 Tablet(s)* Refills:*2*
8. enalapril maleate 10 mg Tablet Sig: One (1) Tablet PO once a 
day: Please start taking enalapril again on ___.  
9. verapamil 120 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO once a day.  
10. ferrous sulfate 325 mg (65 mg iron) Tablet Sig: One (1) 
Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
11. senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for constipation.  
12. glipizide 2.5 mg Tablet Extended Rel 24 hr Sig: One (1) 
Tablet Extended Rel 24 hr PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Bradycardia
Acute Renal Failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted for having a very slow heart 
rate, down to 35 beats per minute.  Before you came in to the 
hospital, you also complained of some stomach pain and nausea 
when trying to eat.  While in the hospital, we also found that 
your kidneys were not functioning properly, most likely because 
you have not been drinking enough water.  While you were in the 
hospital, we monitored you on our heart rhythm monitor and your 
heart rates remained in the ___, which we find reassuring.  
You were given fluids by IV and your kidney function is 
returning to normal.  Your stomach pain improved and you were 
able to eat normal foods again.  At this point, we felt you were 
safe to go home.
Please note that the following changes have been made to your 
medications:
- Please STOP taking your Lasix for now and RESUME on ___, 
___ at a dose of 10mg daily 
- Please STOP taking your Enalapril for now and RESUME on 
___ at the original dose
- Please start to take Ferrous Sulfate (iron supplement) to 
increase your blood levels
- Please take colace twice a day while taking iron to improve 
possible constipation

Please continue to take all your other medications as 
prescribed.
Please weigh yourself every morning, call MD if weight goes up 
more than 3 lbs.
Please make sure you drink enough water every day to help with 
your kidney problems.
 
Followup Instructions:
___